US09260413B2
To a solution of 2 g (7.12 mmol) 2-chloro-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one in 20 ml THF was added 521 mg (0.712 mmol) 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane adduct, 1.33 g (9.62 mmol) 3-hydroxyphenylboronic acid, and 11.4 ml (11.4 mmol) 1 M aq Cs2CO3. The reaction mixture was heated to 120° C. for 30 min in the microwave, then diluted with 10 ml water, extracted with 100 ml EtOAc, dried over Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography (50 g silica gel, 0-100% EtOAc:hexane) gave 340 mg (14% yield) of 2-(3-hydroxyphenyl)-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one. LCMS [M+H]+=339.0.

reactant | 2-chloro-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one | 7.12 mmol, 2 g | ClC1=NC=C(C(N1C)=O)OCC1=CC=C(C=C1)OC | C13H13ClN2O3
reactant | 3-hydroxyphenylboronic acid | 9.62 mmol, 1.33 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | Cs2CO3 | 11.4 mmol, 1 M, 11.4 ml | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane | 0.712 mmol, 521 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(3-hydroxyphenyl)-5-[(4-methoxybenzyl)oxy]-3-methylpyrimidin-4(3H)-one | 340 mg, 14% yield | OC=1C=C(C=CC1)C1=NC=C(C(N1C)=O)OCC1=CC=C(C=C1)OC | C19H18N2O4
